US04304784
A mixture of 15.5 g of α-[(2-carboxyphenyl)thio]-γ-butyrolactone, 100 ml of acetic anhydride and 20 ml of triethylamine is stirred at 140° C. for 3 hours, at the end of which time the solvent is distilled off. To the residue is added ice-water and the resultant precipitate is recovered by filtration and recrystallized from ethanol. By the above procedure there is obtained 9.4 g of 4',5'-dihydrospiro[benzo[b]thiophene-2(3H), 3'(2'H)-furan]3,2'-dione as pale-yellow platelets melting at 125°-127° C.

reactant | α-[(2-carboxyphenyl)thio]-γ-butyrolactone | 15.5 g | C(=O)(O)C1=C(C=CC=C1)SC1C(=O)OCC1 | C11H10O4S
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 4',5'-dihydrospiro[benzo[b]thiophene-2(3H), 3'(2'H)-furan]3,2'-dione | 9.4 g | O1C(C2(CC1)C(C1=C(S2)C=CC=C1)=O)=O | C11H8O3S
